US07259183B2
[2-(3,4-dichloro-phenyl)-ethyl]-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-amine was synthesized in analogy to the above procedure using 100 mg of 2,2-difluoro-1,3-benzodioxole-5-carbaldehyde (0.54 mmol), 102 mg of 2-(3,4-dichloro-phenyl)-ethylamine (0.54 mmol) and 31 mg of sodium borohydride (0.81 mmol). The isolated colorless semisolid (98 mg, 51%) was used in the following step without further purification. MS (ISP) 360.0 (M+H)+.

reactant | 2,2-difluoro-1,3-benzodioxole-5-carbaldehyde | 0.54 mmol, 100 mg | FC1(OC2=C(O1)C=CC(=C2)C=O)F | C8H4F2O3
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 0.54 mmol, 102 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 0.81 mmol, 31 mg | [BH4-].[Na+]
product | [2-(3,4-dichloro-phenyl)-ethyl]-(2,2-difluoro-benzo[1,3]dioxol-5-ylmethyl)-amine | ClC=1C=C(C=CC1Cl)CCNCC1=CC2=C(OC(O2)(F)F)C=C1 | C16H13Cl2F2NO2
